US06677368B2
5-Formyl-4-(3-methanesulfonyl-propyl)-2-methyl-1H-pyrrole-3-carboxylic Acid
Oxone (614 mg, 1 mmol) dissolved in water (2 mL) was added portionwise to a solution of 5-formyl-2-methyl-4-(3-methylsulfanyl-propyl)-1H-pyrrole-3-carboxylic acid ethyl ester (269 mg, 1 mmol) in methanol (4 mL) cooled in an ice bath. The mixture was stirred for 3 hours, keeping the temp between 0° C. and rt. The reaction was diluted with 10 mL of water, the resulted precipitate was collected by vacuum filtration, washed with water and dried to give 95 mg of the desired product. The water filtrate was extracted with ethyl acetate, dried and concentrated to give another 74 mg of the product. Total of 169 mg (56%) of 5-formyl-4-(3-methanesulfonyl-propyl)-2-methyl-1H-pyrrole-3-carboxylic acid ethyl ester was obtained.

reactant | Oxone | 1 mmol, 614 mg | OOS(=O)[O-].[K+]
reactant | 5-formyl-2-methyl-4-(3-methylsulfanyl-propyl)-1H-pyrrole-3-carboxylic acid ethyl ester | 1 mmol, 269 mg | C(C)OC(=O)C1=C(NC(=C1CCCSC)C=O)C | C13H19NO3S
reactant | methanol | 4 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
solvent | water | 10 mL | O | H2O
product | 5-Formyl-4-(3-methanesulfonyl-propyl)-2-methyl-1H-pyrrole-3-carboxylic Acid | 95 mg | C(=O)C1=C(C(=C(N1)C)C(=O)O)CCCS(=O)(=O)C | C11H15NO5S
